US05223498
Reaction of 5-cyano-2-morpholinophenyl isothiocyanate (2.5 g) in ethanol (10 ml) with 25% aqueous ammonia solution (1 ml) at room temperature for 3 hours gave 1-(5-cyano-2-morpholinophenyl)thiourea (m.p. 193°-194° C.)

reactant | 5-cyano-2-morpholinophenyl isothiocyanate | 2.5 g | C(#N)C=1C=CC(=C(C1)N=C=S)N1CCOCC1 | C12H11N3OS
reactant | ammonia | 1 ml | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(5-cyano-2-morpholinophenyl)thiourea | C(#N)C=1C=CC(=C(C1)NC(=S)N)N1CCOCC1 | C12H14N4OS
